US04418062
To 1.0 g of 5,6-dichloro-3-nitropyrazinamine in 20 ml isopropanol is added 0.5 ml triethylamine and then 0.3 ml 2-aminoethanol. The reaction mixture is stirred for 3 hours and then concentrated in vacuo to solids. The solids are triturated with hot chloroform and recrystallized from acetonitrile to afford 0.6 g of 2[(6-Amino-3-chloro-5-nitropyrazin-2-yl)amino]ethanol, m.p. 196°-197° C.

reactant | 5,6-dichloro-3-nitropyrazinamine | 1.0 g | ClC=1N=C(C(=NC1Cl)N)[N+](=O)[O-] | C4H2Cl2N4O2
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | 2-aminoethanol | 0.3 ml | NCCO | C2H7NO
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | 2[(6-Amino-3-chloro-5-nitropyrazin-2-yl)amino]ethanol | 0.6 g | NC1=C(N=C(C(=N1)NCCO)Cl)[N+](=O)[O-] | C6H8ClN5O3
